US04554351
(h) H-MeLeu-Val-MeLeu-Ala-Bzl
31.27 g (49.5 mMol) BOC-MeLeu-Val-MeLeu-Ala-Bzl dissolved in 100 ml trifluoroacetic acid are stirred for 21/2 hrs. at room temperature and the product solution concentrated under vacuum. The residue is diluted with 500 ml methylene carbonate solution, ice being added and the aqueous phases extracted with 200 ml methylene chloride. The combined organic phases are dried over potassium carbonate, filtered and concentrated to yield the title compound: rotation [α]D22 =-114.4° (c=1.0 in chloroform), M.P. on re-crystallisation from ether/petrol ether=66°-67°

reactant | BOC-MeLeu-Val-MeLeu-Ala-Bzl | 49.5 mMol, 31.27 g | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C)C | C34H56N4O6
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | H-MeLeu-Val-MeLeu-Ala-Bzl | N([C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CC1=CC=CC=C1)C)C | C29H48N4O4
